US05110956
{(6,7-Methylenedioxytetralin-1-yl)thio}acetic acid
1.2 g of 6,7-methylenedioxy-1-tetralone was added to a suspension of 0.2 g of lithium aluminum hydride in 20 ml of tetrahydrofuran under cooling with ice. The mixture was stirred at room temperature overnight and cooled with ice/water. 0.2 ml of water, then 0.2 ml of a 15% aqueous sodium hydroxide solution and finally 0.6 ml of water were added thereto. Insoluble substances were removed by filtration. The filtrate was concentrated to obtain a crystalline residue. 1.1 g of mercaptoacetic acid and a catalytic amount of D-10-camphosulfonic acid were added to the residue and the mixture was heated in 30 ml of benzene under reflux for 1 h. The reaction mixture was washed with water. After extraction with a 1Naqueous sodium hydroxide solution, the aqueous layer was acidified with 1N hydrochloric acid. After extraction with chloroform, the extract was dried over magnesium sulfate and the solvent was distilled off. The crystalline residue thus obtained was treated according to silica gel column chromatography (chloroform) to obtain 1.4 g of the intended compound in the form of white crystals.

reactant | 6,7-methylenedioxy-1-tetralone | 1.2 g | C1OC=2C=C3CCCC(C3=CC2O1)=O | C11H10O3
reactant | lithium aluminum hydride | 0.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | mercaptoacetic acid | 1.1 g | SCC(=O)O | C2H4O2S
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 0.6 ml | O | H2O
solvent | water | 0.2 ml | O | H2O
product | {(6,7-Methylenedioxytetralin-1-yl)thio}acetic acid | 1.4 g | C1OC=2C=C3CCCC(C3=CC2O1)SCC(=O)O | C13H14O4S
